US06605729B1
Acetonitrile was added to a solution of amorphous atorvastatin calcium (U.S. Pat. No. 5,273,995) in tetrahydrofuran/water (9:1) and cooled to afford crystalline Form V atorvastatin.

reactant | Acetonitrile | C(C)#N | C2H3N
reactant | atorvastatin calcium | CC(C)C1=C(C(=C(N1CC[C@H](C[C@H](CC(=O)[O-])O)O)C=2C=CC(=CC2)F)C=3C=CC=CC3)C(=O)NC=4C=CC=CC4.CC(C)C1=C(C(=C(N1CC[C@H](C[C@H](CC(=O)[O-])O)O)C=2C=CC(=CC2)F)C=3C=CC=CC3)C(=O)NC=4C=CC=CC4.[Ca+2]
solvent | tetrahydrofuran water | O1CCCC1.O
product | atorvastatin | CC(C)C1=C(C(=C(N1CC[C@H](C[C@H](CC(=O)O)O)O)C=2C=CC(=CC2)F)C=3C=CC=CC3)C(=O)NC=4C=CC=CC4 | C33H35FN2O5
